US07186541B2
3) crotonyl-CoA→3-hydroxybutyryl-CoA
The assay mixture contained 50 mM Tris-HCl (pH 7.5), 1 mM CoA ester, and about 1 μg cell free extract. Reactions were allowed to proceed at room temperature and were stopped by adding 1 volume 10% trifluroacetic acid (TFA). The reaction mixtures were purified prior to MALDI-TOF MS analysis using Sep Pak Vac C18 50 mg columns (Waters, Inc.). The columns were conditioned with 1 mL methanol and then equilibrated with two washes of 1 mL 0.1% TFA. The sample was applied to the column, and the flow through was discarded. The column was washed twice with 1 mL 0.1% TFA. The sample was eluted in 200 μL 40% acetonitrile, 0.1% TFA. The acetonitrile was removed by centrifugation in vacuo. Samples were prepared for MALDI-TOF MS analysis by mixing 1:1 with 110 mM sinapinic acid in 0.1% TFA, 67% acetonitrile. The samples were allowed to air dry.

reactant | Tris-HCl | 50 mM, pH 7.5 | C(C(CO)(CO)N)O.Cl
reactant | CoA | 1 mM | CC(C)(COP(=O)(O)OP(=O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N2C=NC3=C2N=CN=C3N)O)OP(=O)(O)O)[C@H](C(=O)NCCC(=O)NCCS)O | C21H36N7O16P3S
reactant | sinapinic acid | 110 mM | COC1=CC(=CC(=C1O)OC)/C=C/C(=O)O | C11H12O5
solvent | TFA | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | C(C)#N | C2H3N
product | crotonyl-CoA | C(\C=C\C)(=O)SCCNC(CCNC([C@@H](C(COP(OP(OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)OP(=O)(O)O)(=O)O)(=O)O)(C)C)O)=O)=O | C25H40N7O17P3S
